US08008498B2
6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(2-methoxyphen ylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1)
A mixture of 5-chloromethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 2, 262 mg, 0.675 mmol), 2-methoxyaniline (84 μL, 0.74 mmol) and potassium carbonate (151 mg, 1.09 mmol) was suspended in anhydrous N,N-dimethylformamide (4 mL) and the suspension was stirred at 80° C. overnight. After cooling down, ethyl acetate (20 mL) and water (20 mL) were added to the reaction mixture and separated. The organic layer was washed with saturated brine (20 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (196 mg) as a yellow amorphous product. (Yield 61%)

reactant | 5-chloromethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.675 mmol, 262 mg | ClCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OCOC)OC)(C)C)C | C22H26ClNO3
reactant | 2-methoxyaniline | 0.74 mmol, 84 μL | COC1=C(N)C=CC=C1 | C7H9NO
reactant | potassium carbonate | 1.09 mmol, 151 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(2-methoxyphen ylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 196 mg, Yield 61% | COC1=C(C=CC(=C1)OCOC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC | C29H34N2O4
